US04478635
67.5 g (1 mole) of methylammonium chloride and 42 g (0.5 mole) of cyanoguanidine are heated to 175° C. to give a clear colourless melt. After onset of reaction, the heat of reaction causes the temperature of the reaction mixture to rise to 206° C. The batch is then stirred for 31/2 hours at 175° C., cooled to 80° C., diluted with 320 ml of methanol and then 172.3 g (0.97 mole) of a 30% solution of sodium methylate in methanol are added over 5 minutes. The resultant suspension is refluxed for 30 minutes and then 173 g (1.08 mole) of diethyl malonate are added over 5 minutes. This suspension is refluxed for another 6 hours and then diluted with 1.25 liters of water. The product is precipitated by acidifying the clear orange solution with glacial acetic acid to pH 4.5. The precipitate is isolated, washed with water and dried in vacuo over phosphorus pentoxide, affording 35.3 g (25% of theory) of 2-methylamino-4,6-dihydroxypyrimidine with a melting point of 290° C.

reactant | methylammonium chloride | 1 mole, 67.5 g | [Cl-].C[NH3+]
reactant | cyanoguanidine | 0.5 mole, 42 g | C(#N)NC(=N)N | C2H4N4
reactant | sodium methylate | C[O-].[Na+]
reactant | diethyl malonate | 1.08 mole, 173 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | methanol | 320 ml | CO | CH4O
solvent | water | 1.25 liters | O | H2O
product | 2-methylamino-4,6-dihydroxypyrimidine | 35.3 g, 25% | CNC1=NC(=CC(=N1)O)O | C5H7N3O2
